US08455638B2
Step A. 1-Bromo-2-[bromo(difluoro)methyl]benzene
A solution of 1-bromo-2-difluoromethylbenzene (9.6 g, 46.8 mmol) and N-bromosuccinimide (24.8 g, 139 mmol) in carbon tetrachloride (100 mL) was irradiated with a sunlamp. After 3 days, the reaction mixture was diluted with hexane, the precipitate was filtered off, and the collected organic filtrate was concentrated in vacuo. Purification by flash chromatography on silica gel (100% hexanes) provided the title compound: 1H NMR (500 M=Hz, CD2Cl2) δ7.74 (d, J=8.0 Hz, 1H), 7.66 (dd, J=8.0, 1.5 Hz, 1H), 7.44 (t, J=7.7 Hz, 1H), 7.37 (td, J=7.7, 1.3 Hz, 1H).

reactant | 1-bromo-2-difluoromethylbenzene | 46.8 mmol, 9.6 g | BrC1=C(C=CC=C1)C(F)F | C7H5BrF2
reactant | N-bromosuccinimide | 139 mmol, 24.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | hexane | CCCCCC | C6H14
product | 1-Bromo-2-[bromo(difluoro)methyl]benzene | BrC1=C(C=CC=C1)C(F)(F)Br | C7H4Br2F2
